US07989444B2
7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(1-piperidinyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine di-hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-(1-piperidinyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine bis(trifluoroacetate) (0.130 mmol) and 5-(5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl)-2-methylquinoline and was obtained as a white slightly hygroscopic solid (6.2 μmol).

reactant | 2-(1-piperidinyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine bis(trifluoroacetate) | 0.130 mmol | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N1(CCCCC1)C=1OC2=CC3=C(CCNCC3)C=C2N1
reactant | 5-(5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl)-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(1-piperidinyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine di-hydrochloride | Cl.Cl.CN1C(=NN=C1C1=C2C=CC(=NC2=CC=C1)C)SCCCN1CCC2=C(CC1)C=C1C(=C2)OC(=N1)N1CCCCC1 | InChI=1S/C32H37N7OS.2ClH/c1-22-10-11-25-26(8-6-9-27(25)33-22)30-35-36-32(37(30)2)41-19-7-14-38-17-12-23-20-28-29(21-24(23)13-18-38)40-31(34-28)39-15-4-3-5-16-39;;/h6,8-11,20-21H,3-5,7,12-19H2,1-2H3;2*1H
